US08937078B2
Step B: Preparation of 1-(6-bromo-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester.
Titanium (IV) chloride (2.47 mL, 22.5 mmol) was carefully added to a solution of 1-[(4-bromo-phenylimino)-ethoxycarbonylamino-methyl]-1H-pyrazole-4-carboxylic acid ethyl ester (1.84 g, 4.50 mmol) and DCE (45 mL), and the resulting solution was heated to 100° C. for 15 h. The reaction mixture was cooled to room temperature and poured into ice water (50 mL) and DCM (100 mL) was added. The biphasic mixture was stirred for 2 h, and the layers were separated. The aqueous layer was further extracted with DCM (2×50 mL). The combined organic layers were washed with brine (50 mL), dried (MgSO4), and concentrated. The residue was triturated from EtOH to yield the titled compound (1.05 g, 64% yield). MS (ESI/Cl): mass calcd. for C14H11BrN4O3, 362.0; m/z found, 363.0 [M+H]+. 1H NMR (600 MHz, DMSO-d6): 13.15 (s, 1H), 9.01 (d, J=0.5 Hz, 1H), 8.33 (s, 1H), 8.20 (d, J=2.3 Hz, 1H), 7.99 (dd, J=8.7, 2.4 Hz, 1H), 7.66 (d, J=8.8 Hz, 1H), 4.30 (q, J=7.1 Hz, 2H), 1.32 (t, J=7.1 Hz, 3H).

reactant | 1-[(4-bromo-phenylimino)-ethoxycarbonylamino-methyl]-1H-pyrazole-4-carboxylic acid ethyl ester | 4.50 mmol, 1.84 g | C(C)OC(=O)C=1C=NN(C1)C(NC(=O)OCC)=NC1=CC=C(C=C1)Br | C16H17BrN4O4
reactant | DCE | 45 mL | ClCCCl | C2H4Cl2
catalyst | Titanium (IV) chloride | 22.5 mmol, 2.47 mL | [Ti](Cl)(Cl)(Cl)Cl
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-(6-bromo-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 1.05 g, 64% yield | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC=C(C=C2C(N1)=O)Br | C14H11BrN4O3
